US08703761B2
B. N-{1-[5-(5-Cyclopropyl-[1,3,4]oxadiazol-2-yl)-4-(4-fluoro-phenyl)-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-4-fluoro-benzamide
To a stirred solution of 2-(2-(4-Fluorobenzamido)-2-methylpropanamido)-4-(4-fluorophenyl)thiazole-5-carboxylic acid (100 mg, 0.224 mmol) and cyclopropanecarbohydrazide (27 mg, 0.27 mmol) were added HATU (128 mg, 0.34 mmol) and TEA (78 uL, 0.56 mmol). Volatiles were removed in vacuo. The residue was taken up in EtOAc and washed with 1N HCl (2×10 mL) followed by sat. NaHCO3 (2×10 mL). Organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated to dryness to afford a solid. The solid was dissolved in THF (5 mL) and treated with Burgess reagent (68 mg, 0.28 mmol) and heated in microwave at 150° C. for 30 minutes. Purification by silica gel chromatography (30-45% EtOAc/Heptanes) gave the title compound. 1H NMR (400 MHz, DMSO-d6) 0.82 (dd, J=4.74, 2.59 Hz, 3H) 1.08 (dd, J=8.34, 2.78 Hz, 3H) 2.19 (s, 1H) 7.33 (t, J=8.91 Hz, 3H) 7.25 (t, J=8.91 Hz, 3H) 7.71 (dd, J=8.84, 5.56 Hz, 3H) 8.03 (dd, J=8.78, 5.62 Hz, 3H) 8.65 (s, 1H) 12.61 (s, 1H). MS m/z 510.4 (M+H), 508.4 (M−1). HRMS cald for C25H18N2O4S=509.1333, found=509.1334. (M+H)+ 510.4, Rt=1.37 min, method A.

reactant | 2-(2-(4-Fluorobenzamido)-2-methylpropanamido)-4-(4-fluorophenyl)thiazole-5-carboxylic acid | 0.224 mmol, 100 mg | FC1=CC=C(C(=O)NC(C(=O)NC=2SC(=C(N2)C2=CC=C(C=C2)F)C(=O)O)(C)C)C=C1 | C21H17F2N3O4S
reactant | cyclopropanecarbohydrazide | 0.27 mmol, 27 mg | C1(CC1)C(=O)NN | C4H8N2O
reactant | HATU | 0.34 mmol, 128 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Burgess reagent | 0.28 mmol, 68 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-{1-[5-(5-Cyclopropyl-[1,3,4]oxadiazol-2-yl)-4-(4-fluoro-phenyl)-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-4-fluoro-benzamide | C1(CC1)C1=NN=C(O1)C1=C(N=C(S1)NC(=O)C(C)(C)NC(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C25H21F2N5O3S
